US06451781B1
b) 4-{3-[2-(3-Bromobenzoylamino)ethoxy]-7,12-dihydroxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl}pentanoic acid
600 mg of methyl 4-{3-[2-(3-bromobenzoylamino)ethoxy]-7,12-dihydroxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl}pentanoate are dissolved in 19 ml of methanol and 4.6 ml of a 1N aqueous NaOH solution are added. The mixture is stirred at RT for 6 hours, then poured into 150 ml of a 2N aqueous HCl solution and extracted 4 times using 150 ml of MTB each time. The extract is dried over Na2SO4 and the solvent is removed in vacuo. 550 mg of a viscous oil are obtained, which are employed further as such.

reactant | methyl 4-{3-[2-(3-bromobenzoylamino)ethoxy]-7,12-dihydroxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl}pentanoate | 600 mg | BrC=1C=C(C(=O)NCCOC2CCC3(C4CC(C5(C(CCC5C4C(CC3C2)O)C(CCC(=O)OC)C)C)O)C)C=CC1 | C34H50BrNO6
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 19 ml | CO | CH4O
product | 4-{3-[2-(3-Bromobenzoylamino)ethoxy]-7,12-dihydroxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl}pentanoic acid | 550 mg | BrC=1C=C(C(=O)NCCOC2CCC3(C4CC(C5(C(CCC5C4C(CC3C2)O)C(CCC(=O)O)C)C)O)C)C=CC1 | C33H48BrNO6
